US08377923B2
Ethyl 2-(4-fluorophenoxy)-2-methylpropanoate (5.13 g) was dissolved in methanol (50 ml), hydrazine monohydrate (11 ml) and potassium carbonate (3.14 g) were added thereto, followed by stirring at 70° C. for 3 hours. The reaction solution was cooled to room temperature and concentrated under reduced pressure. Water and saturated aqueous sodium bicarbonate were added to the residue, followed by extraction with chloroform. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (chloroform:methanol=99:1) to obtain 2-(4-fluorophenoxy)-2-methylpropanohydrazide (1.98 g) as a colorless oily product.

reactant | Ethyl 2-(4-fluorophenoxy)-2-methylpropanoate | 5.13 g | FC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C12H15FO3
reactant | hydrazine monohydrate | 11 ml | O.NN
reactant | potassium carbonate | 3.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-(4-fluorophenoxy)-2-methylpropanohydrazide | 1.98 g | FC1=CC=C(OC(C(=O)NN)(C)C)C=C1 | C10H13FN2O2
